US07846960B2
2-Butoxy-5-(2-oxo-ethyl)-benzoic Acid Methyl Ester
The title compound (30%) is prepared essentially according to the preparation of 4-Methyl-2-(2-oxo-ethyl)-benzoic acid methyl ester using 5-bromo-2-butoxy-benzoic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ 9.70 (s, 1H), 7.61 (d, 1H), 7.26-7.23 (dd, 1H), 6.94-6.92 (d, 1H), 4.02-3.99 (t, 2H), 3.85 (s, 3H), 3.62 (d, 2H), 1.80-1.76 (m, 2H), 1.52-1.47 (m, 2H), 0.96-0.93 (t, 3H).

reactant | 4-Methyl-2-(2-oxo-ethyl)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C)CC=O)=O | C11H12O3
reactant | 5-bromo-2-butoxy-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)Br)OCCCC)=O | C12H15BrO3
product | 2-Butoxy-5-(2-oxo-ethyl)-benzoic Acid Methyl Ester | 30% | COC(C1=C(C=CC(=C1)CC=O)OCCCC)=O | C14H18O4
